US06326386B1
{2-[3-(Allyl-cyclopentyl-carbamoyl)-5-chloro-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester
To a strrred solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.039 g), TBTU (0.064 g) and HOBt (0.027 g) in DMF (1 ml) was added DIPEA (0.036 ml) followed by N-allylcyclopentylamine (0.029 ml) after 15 min. The reaction mixture was stirred at room temperature for 18 h and then concentrated under reduced pressure. The residue was subjected to preparative hplc and the title compound (0.030 g) obtained by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.039 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | TBTU | 0.064 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.027 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.036 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-allylcyclopentylamine | 0.029 ml | C(C=C)NC1CCCC1 | C8H15N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | {2-[3-(Allyl-cyclopentyl-carbamoyl)-5-chloro-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.030 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)Cl)C(N(C1CCCC1)CC=C)=O)=O | C27H34ClN3O4
